* C:\Users\juanc\OneDrive - UTN.BA\UTN\circuitos 2\TP1\7-1.asc
XU1 N001 N002 Vo opamp Aol=100K GBW=10Meg
R1 Vo N001 1K
R2 N001 Vi 1K
R3 N002 0 1K
C1 N002 Vi 1µF
V1 Vi 0 AC 1 0
.lib opamp.sub
.ac dec 100 1 1Meg
.backanno
.end
