* C:\Users\juanc\OneDrive - UTN.BA\UTN\circuitos_2\TP2\Ej7\spice\ej7tp2.asc
XU1 N001 0 va opamp Aol=100K GBW=10Meg
XU2 0 N009 N002 opamp Aol=100K GBW=10Meg
R6 N009 va 1
XU3 N006 0 N005 opamp Aol=100K GBW=10Meg
C2 N005 N009 {1/(2*pi*f0)}
V1 Vi 0 AC 1 0
C1 va N001 {1/(2*pi*f0)}
R2 va N001 2.22
R3 N002 N001 1
R4 N006 N005 1
R5 N002 N006 1
R1 N001 Vi 0.5346
XU4 N003 0 vb opamp Aol=100K GBW=10Meg
XU5 0 N011 N004 opamp Aol=100K GBW=10Meg
R7 N011 vb 1
XU6 N008 0 N007 opamp Aol=100K GBW=10Meg
C3 N007 N011 {1/(2*pi*f0*1.215)}
C4 vb N003 {1/(2*pi*f0*1.215)}
R8 vb N003 4.5351
R9 N004 N003 1
R10 N008 N007 1
R11 N004 N008 1
R12 N003 N010 4.5351
XU7 N012 0 vo opamp Aol=100K GBW=10Meg
XU8 0 N017 N013 opamp Aol=100K GBW=10Meg
R13 N017 vo 1
XU9 N015 0 N014 opamp Aol=100K GBW=10Meg
C5 N014 N017 {1/(2*pi*f0*0.822)}
C6 vo N012 {1/(2*pi*f0*0.822)}
R14 vo N012 4.5207
R15 N013 N012 1
R16 N015 N014 1
R17 N013 N015 1
R18 N012 N016 4.5207
XU10 N010 va N010 opamp Aol=100K GBW=10Meg
XU11 N016 vb N016 opamp Aol=100K GBW=10Meg
.lib opamp.sub
.ac dec 100 {f0/10} {f0*10}
.param f0=2000
.backanno
.end
