* C:\Users\juanc\OneDrive - UTN.BA\UTN\Materias\4\circuitos_2\Práctica\TPS\TS12(no_obligatoria)\spice\circuito.asc
XU1 N004 vo1 vo2 opamp Aol=100K GBW=10Meg
R1 vo2 N004 1000
R2 N004 0 1000
R3 vo1 vo2 1.866667
C1 vo1 vo2 178.571m
R4 vo1 N003 1
C2 N003 0 476.190m
R5 N003 N002 1.09
C3 N002 0 17.357
R6 N002 N001 111.11m
V1 N001 0 AC 1 0
.inc opamp.sub
.param f = w/(2*pi)
.step dec param w 10m 100 30
.ac list {f}
* VNIC k=1
.backanno
.end
