* C:\Users\juanc\OneDrive - UTN.BA\UTN\Materias\4\circuitos_2\Práctica\TPS\TS15\spice\TS15_Rev2.asc
R2 Vo 0 {Zn}
V1 Vi 0 AC 1 0 Rser={Zn}
L1 Vo N001 {(0.1922)*Zn/Wn}
L2 N001 Vi {(1.255)*Zn/Wn}
C1 0 N001 {(0.5528)*Zn/Wn}
.net I(R2) v1
.param Zn=1 F0=1 Wn=2*pi*F0
.ac dec 30 {Wn/100} {Wn*10}
.backanno
.end
