* C:\Users\juanc\OneDrive - UTN.BA\UTN\circuitos_2\TPS\TS2\spice\ts2.asc
XU1 N001 0 Vbp opamp Aol=100K GBW=10Meg
XU2 0 N004 Vlp opamp Aol=100K GBW=10Meg
R1 N004 Vbp {R}
XU3 N003 0 N002 opamp Aol=100K GBW=10Meg
C1 N002 N004 {1/(R*wo)}
V1 Vi 0 AC 1 0
C2 Vbp N001 {1/(R*wo)}
R2 Vbp N001 {Q*R}
R3 Vlp N001 {R}
R4 N003 N002 {R}
R5 Vlp N003 {R}
R6 N001 Vi {R/Klp}
.lib opamp.sub
.ac dec 100 {f0/100} {f0*100}
.param Klp=10 Q=3 f0={1/(2*pi)} wo={f0*2*pi}
.param R 1
.backanno
.end
